US07691896B2
tert-Butyldimethylsilyltrifluoromethanesulfonate (2.40 ml, 2.75 g, 10.4 mmol, 2.0 equiv) was added dropwise over 8 min to a stirring solution of 5-(tert-butyl-dimethyl-silanyloxy)-3-methyl-1H-pyrrole-2-carboxylic acid methyl ester (1.4 g, 5.2 mmol, 1.0 equiv) and cyclohexanecarbaldehyde (0.94 ml, 0.87 g, 7.8 mmol, 1.5 equiv) in dichloromethane (100 ml) at −78° C. The resultant solution was stirred at −78° C. for 2 h, then pH=7 buffer solution (50 ml) was added. The organic layer was washed with brine solution (50 ml), and dried over sodium sulfate. The solids were filtered and the filtrate was concentrated. The residue obtained was purified by flash column chromatography (5% ethyl acetate-dichloromethane initially, grading to 8% ethyl acetate-dichloromethane, then to 10% ethyl acetate-dichloromethane) to give 2-[(tert-butyl-dimethyl-silanyloxy)-cyclohexyl-methyl]-3-methyl-5-oxo-2,5-dihydro-1H-pyrrole-2-carboxylic acid methyl ester (1.69 g, 85%) as a colorless oil.

reactant | tert-Butyldimethylsilyltrifluoromethanesulfonate | 10.4 mmol, 2.40 ml, 2.75 g, 2.0 equiv | [Si](C)(C)(C(C)(C)C)OS(=O)(=O)C(F)(F)F | C7H15F3O3SSi
reactant | 5-(tert-butyl-dimethyl-silanyloxy)-3-methyl-1H-pyrrole-2-carboxylic acid methyl ester | 5.2 mmol, 1.4 g, 1.0 equiv | COC(=O)C=1NC(=CC1C)O[Si](C)(C)C(C)(C)C | C13H23NO3Si
reactant | cyclohexanecarbaldehyde | 7.8 mmol, 0.94 ml, 0.87 g, 1.5 equiv | C1(CCCCC1)C=O | C7H12O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-[(tert-butyl-dimethyl-silanyloxy)-cyclohexyl-methyl]-3-methyl-5-oxo-2,5-dihydro-1H-pyrrole-2-carboxylic acid methyl ester | 1.69 g, 85% | COC(=O)C1(NC(C=C1C)=O)C(C1CCCCC1)O[Si](C)(C)C(C)(C)C | C20H35NO4Si
